US07723336B2
The mixture of 6-chloro-5-methylpyridazin-3-amine and 3-chloro-5-methylpyridazin-6-amine (1.45 g, 10 mmol) from 1a and NaHCO3 (2.1 g, 25 mmol) were suspended in MeOH (20 mL) and treated with Br2 (0.57 mL, 11 mmol). The mixture was stirred at room temperature for 4 h, then filtered. The filtrate was condensed in vacuo. The resulting residue was resuspended in EtOAc (100 mL) and washed sequentially with sat. aqueous NaHCO3 solution (2×20 mL) and aqueous NaCl solution (1×20 mL). The solution was dried over MgSO4. The solvent was removed in vacuo to give crude 4-bromo-6-chloro-5-methylpyridazin-3-amine (1 g).

reactant | 6-chloro-5-methylpyridazin-3-amine | ClC1=C(C=C(N=N1)N)C | C5H6ClN3
reactant | 3-chloro-5-methylpyridazin-6-amine | 10 mmol, 1.45 g | ClC=1N=NC(=C(C1)C)N | C5H6ClN3
reactant | NaHCO3 | 25 mmol, 2.1 g | C(=O)(O)[O-].[Na+]
reactant | Br2 | 11 mmol, 0.57 mL | BrBr | Br2
solvent | MeOH | 20 mL | CO | CH4O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-bromo-6-chloro-5-methylpyridazin-3-amine | 1 g | BrC1=C(N=NC(=C1C)Cl)N | C5H5BrClN3
